US07872021B2
1-[[4-(1,1-dimethylethyl)phenyl]sulfonyl]-N-[(3-hydroxyphenyl)methyl]-2,3-dihydro-(2S)-1H-indole-2-carboxamide
54 mg (0.53 mmol) of triethylamine are added to a suspension of 42.26 mg (0.265 mmol) of 3-(aminomethyl)phenol hydrochloride in 8 ml of dichloromethane at ambient temperature, then a solution of 100 mg (0.265 mmol) of 1-[[4-(1,1-dimethylethyl)phenyl]sulfonyl]-2,3-dihydro-(2S)-1H-indole-2-carbonyl chloride in 2 ml of dichloromethane is added over 10 minutes. This is left to agitate at ambient temperature for 1 hour. The reaction medium is washed with water, dried on magnesium sulfate, the solvents are evaporated and the evaporation residue is purified by silica column chromatography eluting with the help of a toluene/ethyl acetate mixture (8/2; v/v). The expected product is obtained in the form of a white solid with a yield of 51%.

reactant | triethylamine | 0.53 mmol, 54 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)phenol hydrochloride | 0.265 mmol, 42.26 mg | Cl.NCC=1C=C(C=CC1)O
reactant | 1-[[4-(1,1-dimethylethyl)phenyl]sulfonyl]-2,3-dihydro-(2S)-1H-indole-2-carbonyl chloride | 0.265 mmol, 100 mg | CC(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)Cl | C19H20ClNO3S
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-[[4-(1,1-dimethylethyl)phenyl]sulfonyl]-N-[(3-hydroxyphenyl)methyl]-2,3-dihydro-(2S)-1H-indole-2-carboxamide | yield of 51% | CC(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)NCC1=CC(=CC=C1)O | C26H28N2O4S
